Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___               Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
fevers
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
The patient is an ___ y/o F with PMHx of lupus and RA on
chronic immunosuppression, who presents with persistent fevers
and flu-like s/s. 

The patient reports that she initially presented to urgent care
on ___ with fevers (Tm 101.1) night sweats, tender cervical LAD,
and headache. She was found to be flu positive and was treated
with a course of Tamiflu. Symptoms largely improved with this
treatment aside from headache, which has persisted. 
Subsequently,
approximately a week ago, she developed recurrent fevers and
night sweats. She tried taking Tylenol, which initially helped
but then stopped being effective. Temperatures during this time
went up to 104. She reports associated muscle and body aches,
which she did not have during her initial illness earlier this
month. She presented to urgent care again, where flu swab was
again positive for influenza B. She was given IVFs and a Rx for
Tamiflu. She was asked to return to clinic for re-eval today. At
UC visit today, she was noted to be persistently febrile and was
referred to the ED.

ED Course:
Initial VS: 101.5 108 116/70 18 100% RA Pain ___
Labs significant for WBC 2.1, Plt 94. Chem panel largely WNL
aside from mild elevation in AST. CRP 13.2. UA negative. Flu
negative here. 
Imaging: CXR without acute process.
Meds given: 2L LR

ED Exam - 
Con: alert, oriented and in no acute distress
HEENT: NCAT. PERRLA, no icterus or injection bilaterally. EOMI.
No erythema or exudate in posterior pharynx; uvula midline; MMM.
Neck: neck veins flat with full ROM
LAD: no cervical LAD
Resp: Breathing comfortably on RA. No incr WOB, CTAB with no
crackles or wheezes.
CV: tachycardic. Normal S1/S2. NMRG. 2+ radial and DP pulses
bilateral.
Abd: Soft, Nontender, Nondistended with no organomegaly; no
rebound tenderness or guarding.
MSK: ___ without edema bilaterally
Skin: No rash, Warm and dry, No petechiae
Neuro: AOx3, speech fluent, no obvious facial asymmetry, moves
all 4 ext to command.
Psych: Normal mentation

VS prior to transfer: 98.7 97 ___ 100% RA Pain ___

On arrival to the floor, the patient reports that she feels much
better after getting IVFs in the ED. She reports ongoing
occipital headache since symptoms started several weeks ago. No
neck stiffness. She does endorse 2 episodes of transient double
vision when her fever was very high. She also endorses
erythematous rash across her chest when fevers spikes last 
night,
since resolved. She endorses mild dyspnea, no cough. She also
endorses palpitations when fever spikes. She endorses mild
nausea, no vomiting.

Regarding her autoimmune disease, she reports that her RA
generally affects her hands and elbows. She does not feel that
this is particularly bothersome at this time. She does endorse
some hip pains when waking up recently. No skin rashes other 
than
as above. No ulcers.

 
Past Medical History:
Lupus
RA
recent flu B
 
Social History:
___
Family History:
Paternal ___ with lupus
 
Physical Exam:
GEN - Alert, NAD
HEENT - Face symmetric, PERRL, MMM
NECK - Supple, no cervical LAD noted
CV - RRR aside from mild tachycardia, no m/r/g appreciated
RESP - CTA B
BACK - no CVAT
ABD - S/NT/ND, BS present
EXT - No ___ edema or calf tenderness; no joint swelling noted
SKIN - No apparent rashes
NEURO - Nonfocal
PSYCH - Calm, appropriate
 
Pertinent Results:
___ 06:13AM BLOOD WBC-2.5* RBC-3.39* Hgb-10.3* Hct-31.2* 
MCV-92 MCH-30.4 MCHC-33.0 RDW-13.2 RDWSD-44.8 Plt Ct-88*
___ 06:13AM BLOOD Neuts-44.3 ___ Monos-7.3 Eos-0.4* 
Baso-0.0 Im ___ AbsNeut-1.10* AbsLymp-1.18* AbsMono-0.18* 
AbsEos-0.01* AbsBaso-0.00*
___ 06:13AM BLOOD Plt Ct-88*
___ 06:13AM BLOOD Glucose-80 UreaN-4* Creat-0.6 Na-142 
K-4.2 Cl-107 HCO3-25 AnGap-10
___ 06:13AM BLOOD ALT-6 AST-48* AlkPhos-37 TotBili-0.3
___ 06:13AM BLOOD Calcium-8.6 Phos-4.4 Mg-1.7
___ 03:02PM BLOOD CRP-13.2*

Urgent care ___ positive for flu B

EXAMINATION:  CHEST (PA AND LAT) 
  
INDICATION:  History: ___ with cough and fever// eval for PNA 
  
TECHNIQUE:  Chest PA and lateral 
  
COMPARISON:  None. 
  
FINDINGS:  
  
Heart size is normal.  The mediastinal and hilar contours are 
normal. The 
pulmonary vasculature is normal. Lungs are well expanded and 
appear clear.  No 
pleural effusion or pneumothorax is seen. There are no acute 
osseous 
abnormalities. 
  
IMPRESSION:  
  
No acute cardiopulmonary abnormality. 
  
___ electronically signed on SAT ___ 8:55 
___ 

ECG: sinus rhythm, no ST/T changes
 
Brief Hospital Course:
Patient admitted for fevers. Outpatient urgent care center is 
contacted and confirmed she tested positive for flu B on ___, 
so she was continued on Tamiflu treatment without further 
workup. Her urine is clean and CXR no pneumonia. She defervesed 
in 24 hours. She will finish a course of 5d Tamiflu.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydroxychloroquine Sulfate 200 mg PO DAILY 
2. PredniSONE 7.5 mg PO DAILY 
3. AzaTHIOprine 75 mg PO DAILY 
4. abatacept 125 mg/mL subcutaneous 1X/WEEK 
5. OSELTAMivir 75 mg PO Q12H 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild/Fever 
RX *acetaminophen 325 mg 2 tablet(s) by mouth every six (6) 
hours Disp #*60 Tablet Refills:*0 
2.  abatacept 125 mg/mL subcutaneous 1X/WEEK  
3.  AzaTHIOprine 75 mg PO DAILY  
4.  Hydroxychloroquine Sulfate 200 mg PO DAILY  
5.  OSELTAMivir 75 mg PO Q12H 
RX *oseltamivir 75 mg 1 capsule(s) by mouth twice a day Disp #*8 
Capsule Refills:*0 
6.  PredniSONE 7.5 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Influenza B infection
Lupus
Rheumatoid arthritis
 
Discharge Condition:
Stable
 
Discharge Instructions:
You were admitted to the hospital for the flu. You were given 
some IV fluids and Tamiflu. Please complete 5 day course of 
Tamiflu, stay hydrated and eat well. You do not need to isolate 
yourself as you are not considered non-contagious.
Pleasure caring for you here in ___!
 
Followup Instructions:
___